US04374248
3-Amino-4-{2-[(2-dimethylaminomethyl-4-thiazolyl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide
When a methanolic solution of 3-{2-[(2-dimethylaminomethyl-4-thiazolyl)methylthio]ethylamino}-4-methoxy-1,2,5-thiadiazole 1-oxide [prepared from 3,4-dimethoxy-1,2,5-thiadiazole 1-oxide by the general procedure described in Example 34, Step F] is reacted with anhydrous ammonia according to the general procedure described in Example 35, the title compound is thereby produced.

reactant | 3-{2-[(2-dimethylaminomethyl-4-thiazolyl)methylthio]ethylamino}-4-methoxy-1,2,5-thiadiazole 1-oxide | CN(C)CC=1SC=C(N1)CSCCNC1=NS(N=C1OC)=O | C12H19N5O2S3
reactant | 3,4-dimethoxy-1,2,5-thiadiazole 1-oxide | COC1=NS(N=C1OC)=O | C4H6N2O3S
reactant | ammonia | N | H3N
product | 3-Amino-4-{2-[(2-dimethylaminomethyl-4-thiazolyl)methylthio]ethylamino}-1,2,5-thiadiazole 1-oxide | NC1=NS(N=C1NCCSCC=1N=C(SC1)CN(C)C)=O | C11H18N6OS3
